US08492427B2
6-(2-Fluoro-4-iodo-phenylamino)-1-oxo-2,3-dihydro-1H-isoindole-5-carboxylic acid (2-hydroxy-ethoxy)-amide
To a solution of 6-(2-fluoro-4-iodo-phenylamino)-1-oxo-2,3-dihydro-1H-isoindole-5-carboxylic acid (2-vinyloxy-ethoxy)-amide (100 mg, 0.20 mmol) in methanol (7 mL) was added hydrochloric acid (1 mL, 1M, 1 mmol). The reaction mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated in vacuo and the resultant residue triturated with hot ethyl acetate. The product was collected by filtration to give the title compound as a pale beige solid (58 mg, 61%). LCMS (Method A): RT=7.64, M+H+=472. 1H NMR (DMSO-d6) 11.89 (1H, s), 9.00 (1H, s), 8.68 (1H, s), 7.68-7.62 (2H, m), 7.49-7.45 (1H, m), 7.24 (1H, s), 7.17 (1H, t, J=8.63 Hz), 4.69 (1H, s), 4.28 (2H, s), 3.89 (2H, t, J=4.82 Hz), 3.58 (2H, t, J=4.73 Hz).

reactant | 6-(2-fluoro-4-iodo-phenylamino)-1-oxo-2,3-dihydro-1H-isoindole-5-carboxylic acid (2-vinyloxy-ethoxy)-amide | 0.20 mmol, 100 mg | C(=C)OCCONC(=O)C=1C=C2CNC(C2=CC1NC1=C(C=C(C=C1)I)F)=O | C19H17FIN3O4
reactant | hydrochloric acid | 1 mmol, 1M, 1 mL | Cl | ClH
solvent | methanol | 7 mL | CO | CH4O
product | 6-(2-Fluoro-4-iodo-phenylamino)-1-oxo-2,3-dihydro-1H-isoindole-5-carboxylic acid (2-hydroxy-ethoxy)-amide | 58 mg, 61% | OCCONC(=O)C=1C=C2CNC(C2=CC1NC1=C(C=C(C=C1)I)F)=O | C17H15FIN3O4
